US09238631B2
a) Di-tert-butyl (4S)-4-allyl-N-(tert-butoxycarbonyl)-L-glutamate
To a solution of 719 mg (2.00 mmol) di-tert-butyl N-(tert-butoxycarbonyl)-L-glutamate in tetrahydrofuran (12 mL) at −78° C., lithium 1,1,1,3,3,3-hexamethyldisilazan-2-ide (1.0 M in tetrahydrofuran, 4.40 mL) was added dropwise. The solution was stirred for 30 min, then allyl bromide (0.52 mL, 6.00 mmol) was added dropwise. The reaction was stirred at −78° C. overnight and then quenched at −10° C. by the addition of 10 mL of 2 N aqueous hydrogen chloride. The mixture was warmed to room temperature poured into 10 mL 1 N aqueous hydrogen chloride and extracted with dichloromethane (3×30 mL). The organic phases were dried over magnesium sulfate and concentrated in vacuo. The crude product was purified on silica gel using a hexane/ethyl acetate gradient, and the appropriate fractions were combined and concentrated.

reactant | di-tert-butyl N-(tert-butoxycarbonyl)-L-glutamate | 2.00 mmol, 719 mg | C(C)(C)(C)OC(=O)N[C@@H](CCC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C18H33NO6
reactant | lithium 1,1,1,3,3,3-hexamethyldisilazan-2-ide | 1.0 M, 4.40 mL | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | allyl bromide | 6.00 mmol, 0.52 mL | C(C=C)Br | C3H5Br
solvent | tetrahydrofuran | 12 mL | O1CCCC1 | C4H8O
product | Di-tert-butyl (4S)-4-allyl-N-(tert-butoxycarbonyl)-L-glutamate | C(C=C)[C@@H](C[C@H](NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C21H37NO6
